US05786495
Synthesis of n-octylmethylbis(9-fluorenyl)silane
n-Octylmethyldichlorosilane (32.68 g, 0.144 mol) and 200 mL of dry THF were charged to a one liter Schlenk flask equipped with an addition funnel. Fluorene anion (49.50 g, 0.288 mol) was dissolved in approximately 200 mL of dry THF and charged to the addition funnel. The temperature of the stirring solution was lowered to -20° C. under positive nitrogen pressure. The fluorene anion was added dropwise over two hours. After the addition of anion was complete the reaction mixture was allowed to warm to room temperature. The solution was then stirred overnight. The solution was washed with three 200 mL aliquots of water, retaining the organic layer after each washing. The organic layer was dried with magnesium sulfate and filtered. The product was recrystallized from a diethyl ether/methanol solution. The yield of this reaction is 10%.

reactant | n-Octylmethyldichlorosilane | 0.144 mol, 32.68 g | C(CCCCCCC)[Si](Cl)(Cl)C | C9H20Cl2Si
reactant | Fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
solvent | THF | approximately 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | n-octylmethylbis(9-fluorenyl)silane | C(CCCCCCC)[Si](C1C2=CC=CC=C2C=2C=CC=CC12)(C1C2=CC=CC=C2C=2C=CC=CC12)C | C35H38Si
